US05166427
The experimental method described in Example 1 is used, and 2,746 g (10 moles) of technical grade stearic acid and the catalyst phase (342 g) obtained in Example 1 are initially taken. 1,089 g (11 moles) of gaseous phosgene are then introduced. The product phase contains 2,930 g (99.9% yield) of stearyl chloride having a purity of 97% (determined by IR spectroscopy); the iodine color number is 30.

reactant | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | phosgene | 11 moles, 1,089 g | C(=O)(Cl)Cl | CCl2O
product | stearyl chloride | 2,930 g, 99.9% yield | C(CCCCCCCCCCCCCCCCC)Cl | C18H37Cl
